US07935713B2
Step A: Methyl 4-[(RS)-hydroxy(6-methoxy-2-naphthyl)methyl]benzoate
n-BuLi (4.4 mL of a 2.5 M solution in hexanes, 11 mmol) was added dropwise to a solution of 6-methoxy-2-bromonaphthalene (2.4 g, 10 mmol) in 80 mL of THF cooled in dry ice-acetone bath. After aging for 15 min, the cold mixture was quickly cannulated to a stirring mixture of methyl 4-formylbenzoate (1.64 g, 10 mmol) in 20 mL of THF cooled in dry ice-acetone bath. After stirring for an additional 15 min, the reaction mixture was poured into a mixture of aq ammonium chloride, hexanes and EtOAc. The organic phase was separated, concentrated and purified by flash chromatography on silica gel (mobile phase=10% to 30% EtOAc in hexanes) to give the title compound as a racemic mixture.

reactant | n-BuLi | [Li]CCCC
reactant | 6-methoxy-2-bromonaphthalene | 10 mmol, 2.4 g | COC=1C=C2C=CC(=CC2=CC1)Br | C11H9BrO
reactant | methyl 4-formylbenzoate | 10 mmol, 1.64 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-[(RS)-hydroxy(6-methoxy-2-naphthyl)methyl]benzoate | OC(C1=CC=C(C(=O)OC)C=C1)C1=CC2=CC=C(C=C2C=C1)OC | C20H18O4
